US05665718
8.6 ml (34.3 mmol) of 4N sodium hydroxide solution were added dropwise to a suspension of 8.8 g (26.4 mmol) of ethyl (S)-7,8-difluoro-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate in 20 ml of ethanol and 30 ml of water and the mixture was heated at reflux for 30 minutes. Subsequently, the ethanol was distilled off. The aqueous phase was washed twice with methylene chloride and adjusted to pH=3 with 4N hydrochloric acid. Extraction with methylene chloride (five times), drying over sodium sulfate, filtration and evaporation yielded 7.2 g (89%) of (S)-7,8-difluoro-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylic acid as colourless needles of m.p. 218.0°-219.5° (dec.).

reactant | sodium hydroxide | 34.3 mmol, 4N, 8.6 ml | [OH-].[Na+]
reactant | ethyl (S)-7,8-difluoro-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate | 26.4 mmol, 8.8 g | FC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C(=O)OCC)CC3)=O)C1F | C16H13F2N3O3
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
product | (S)-7,8-difluoro-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylic acid | 7.2 g, 89% | FC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C(=O)O)CC3)=O)C1F | C14H9F2N3O3
